US06812235B2
To a solution of ethyl 3-(4-isobutyloxyphenyl)-3-(S)-tert-butyloxycarbonylamino-propionate (0.42 g) in ethyl acetate (5 ml) was added 4N hydrogen chloride in ethyl acetate (5 ml) at 0° C. After stirring for 2.5 hours at ambient temperature, the mixture was partitioned between a mixture of ethyl acetate and a saturated aqueous NaHCO3 solution. The separated organic layer was washed with water and brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by a silica gel column chromatography eluting with chloroform and methanol (19:1 to 4:1) to give ethyl 3-(4-isobutyloxyphenyl)-3-(S)-amino-propionate(100 mg, 33.7%).

reactant | ethyl 3-(4-isobutyloxyphenyl)-3-(S)-tert-butyloxycarbonylamino-propionate | 0.42 g | C(C(C)C)OC1=CC=C(C=C1)[C@H](CC(=O)OCC)NC(=O)OC(C)(C)C | C20H31NO5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 3-(4-isobutyloxyphenyl)-3-(S)-amino-propionate | 100 mg, 33.7% | C(C(C)C)OC1=CC=C(C=C1)[C@H](CC(=O)OCC)N | C15H23NO3
